US05990116
6-[2-(2,5-Dimethoxyphenyl)ethyl]-2,3-dihydro-1H-quinazolin-4-one (Process e)
130 g of 6-[2-(2,5-dimethoxyphenyl)ethyl]-3H-quinazolin-4-one are dissolved in 3 ml of acetic acid and treated with 58 mg of sodium borohydride. After stirring for 5 hours at room temperature, the mixture is poured onto 2 M aqueous pH7 buffer solution and extracted with ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel to give the title compound as colourless crystals. mp.: 138-140°.

reactant | 6-[2-(2,5-dimethoxyphenyl)ethyl]-3H-quinazolin-4-one | 130 g | COC1=C(C=C(C=C1)OC)CCC=1C=C2C(NC=NC2=CC1)=O | C18H18N2O3
reactant | sodium borohydride | 58 mg | [BH4-].[Na+]
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 6-[2-(2,5-Dimethoxyphenyl)ethyl]-2,3-dihydro-1H-quinazolin-4-one | COC1=C(C=C(C=C1)OC)CCC=1C=C2C(NCNC2=CC1)=O | C18H20N2O3
